US08404709B2
4-Formyl-3-(trifluoromethoxy)benzonitrile
10.63 g (39.51 mmol) of 4-bromo-2-(trifluoromethoxy)benzaldehyde, 3.43 g (29.24 mmol) of zinc cyanide and 1.37 g (1.19 mmol) of tetrakis(triphenylphosphine)palladium(0) are dissolved in 80 ml of DMF. The reaction mixture is then reacted in several portions in a single mode microwave (Emrys Optimizer, 5 min at 220° C.). The combined mixtures are mixed with water and extracted twice with toluene. The combined organic phases are washed with saturated sodium chloride solution and dried with sodium sulfate, and then the solvent is removed in a rotary evaporator. The residue is purified by column chromatography (silica gel, mobile phase: cyclohexane/ethyl acetate 10:1). 3.32 g (78% of theory) of the title compound are obtained with a purity of 80% (according to LC-MS).

reactant | 4-bromo-2-(trifluoromethoxy)benzaldehyde | 39.51 mmol, 10.63 g | BrC1=CC(=C(C=O)C=C1)OC(F)(F)F | C8H4BrF3O2
reactant | water | O | H2O
reactant | DMF | 80 ml | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 29.24 mmol, 3.43 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.19 mmol, 1.37 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Formyl-3-(trifluoromethoxy)benzonitrile | C(=O)C1=C(C=C(C#N)C=C1)OC(F)(F)F | C9H4F3NO2
